US05017212
3-Methylthioimidazo[1,5-a]pyridine
To a solution of 1.63 g of imidazo[1,5-a]pyridine in 20 ml of tetrahydrofuran, 11 ml of n-butyl lithium (1.6N-hexane solution) is added below 70° C. during 15 minutes under nitrogen gas atmosphere. After stirring the mixture for an hour at the same temperature, a solution of 1.7 g of dimethyldisulfide in 10 ml of tetrahydrofuran is dropwise added during 30 minutes and continued to stir for 30 minutes. The mixture added with water is extracted with ether. The extract is dried over anhydrous magnesium sulfate and distilled to remove ether. The residue is purified by silica gel chromatography (eluent: chlooform-ethylacetate) to give 2.37 g of the oily title compound.

reactant | imidazo[1,5-a]pyridine | 1.63 g | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | dimethyldisulfide | 1.7 g | CSSC | C2H6S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-butyl lithium | 1.6N, 11 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3-Methylthioimidazo[1,5-a]pyridine | 2.37 g | CSC1=NC=C2N1C=CC=C2 | C8H8N2S
